US07691902B2
To a solution of the crude 1-benzo[1,3]dioxol-5-yl-cyclopropanecarbonyl chloride (3.0 mmol) in CH2Cl2 (30 mL) at ambient temperature was added a solution of 3-bromo-4-methoxybenzenamine (3.3 mmol), Et3N (15 mmol), and CH2Cl2 (90 mL) dropwise. The mixture was allowed to stir for 16 h before it was diluted with CH2Cl2 (500 mL). The solution was washed with 1N HCl (2×250 mL), sat. aq. NaHCO3 (2×250 mL), then brine (250 mL). The organics were dried over Na2SO4, filtered, and concentrated in vacuo to provide 1-(benzo[d][1,3]dioxol-5-yl)-N-(3-bromo-4-methoxyphenyl)cyclopropanecarboxamide (B-10) with suitable purity to be used without further purification.

reactant | 1-benzo[1,3]dioxol-5-yl-cyclopropanecarbonyl chloride | 3.0 mmol | O1COC2=C1C=CC(=C2)C2(CC2)C(=O)Cl | C11H9ClO3
reactant | 3-bromo-4-methoxybenzenamine | 3.3 mmol | BrC=1C=C(C=CC1OC)N | C7H8BrNO
reactant | Et3N | 15 mmol | CCN(CC)CC | C6H15N
solvent | CH2Cl2 | 30 mL | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 500 mL | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 90 mL | C(Cl)Cl | CH2Cl2
product | 1-(benzo[d][1,3]dioxol-5-yl)-N-(3-bromo-4-methoxyphenyl)cyclopropanecarboxamide | O1COC2=C1C=CC(=C2)C2(CC2)C(=O)NC2=CC(=C(C=C2)OC)Br | C18H16BrNO4
